US06995263B2
To an ice cooled solution of 12.9 g (38.7 mmol) [5-(tert-butyl-dimethyl-silanyloxy)-indol-1-yl]-acetic acid ethyl ester in 130 ml of THF was added 12.45 g (38.7 mmol) of tetrabutylammonium fluoride hydrate. The reaction mixture was stirred for 1 h at RT, taken up in ether and washed with 1N HCl and water. Evaporation of the solvent under reduced pressure gave 7.07 g (83%) of pure (5-hydroxy-indol-1-yl)-acetic acid ethyl ester.

reactant | [5-(tert-butyl-dimethyl-silanyloxy)-indol-1-yl]-acetic acid ethyl ester | 38.7 mmol, 12.9 g | C(C)OC(CN1C=CC2=CC(=CC=C12)O[Si](C)(C)C(C)(C)C)=O | C18H27NO3Si
reactant | tetrabutylammonium fluoride hydrate | 38.7 mmol, 12.45 g | O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 130 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | (5-hydroxy-indol-1-yl)-acetic acid ethyl ester | 7.07 g, 83% | C(C)OC(CN1C=CC2=CC(=CC=C12)O)=O | C12H13NO3
